### PR TITLE
feat: The finite product of semi-rings (in terms of measure theory) is a semi-ring.

### PR DESCRIPTION
**Pull request by pfaffelh**
~~Move results for rings (in terms of measure theory) to a separate file; was in Semiring.lean before.~~
For `∀ i ∈ s, IsSetSemiring (C i))`, the product `s.pi '' s.pi C` is a semiring. 
Prove two auxiliary lemmas in `Data.Set.Prod` needed on the way.

### CODE REVIEW

File: Mathlib/Data/Set/Pairwise/Lattice.lean [hunk 1]
```diff
@@ -55,6 +55,14 @@ theorem pairwiseDisjoint_sUnion {s : Set (Set ι)} (h : DirectedOn (· ⊆ ·) s
     (⋃₀ s).PairwiseDisjoint f ↔ ∀ ⦃a⦄, a ∈ s → Set.PairwiseDisjoint a f :=
   pairwise_sUnion h
 
+theorem pairwiseDisjoint_union_of_disjoint
+  {s t : Set (Set ι)} {f : Set ι → α} (hf : Monotone f)
+  (hs : PairwiseDisjoint s f) (ht : PairwiseDisjoint t f)
+    (hst : Disjoint (f (Set.sUnion s)) (f (sUnion t))) : PairwiseDisjoint (s ∪ t) f := by
```
Comment (Paul-Lez) [inline Mathlib/Data/Set/Pairwise/Lattice.lean:61]:
```suggestion
theorem pairwiseDisjoint_union_of_disjoint
    {s t : Set (Set ι)} {f : Set ι → α} (hf : Monotone f)
    (hs : PairwiseDisjoint s f) (ht : PairwiseDisjoint t f)
    (hst : Disjoint (f (Set.sUnion s)) (f (sUnion t))) : PairwiseDisjoint (s ∪ t) f := by
```

File: Mathlib/Data/Set/Prod.lean [hunk 2]
```diff
@@ -730,6 +730,23 @@ theorem pi_if {p : ι → Prop} [h : DecidablePred p] (s : Set ι) (t₁ t₂ :
...
+((s ∪ t).pi fun i ↦ if i ∈ s then x i else y i)  = (s.pi x) ∩ (t.pi y) := by
+  have hx : ∀ i ∈ s, x i = if h : i ∈ s then x i else y i := by
+    intro i hi
+    simp only [dite_eq_ite, hi, ↓reduceIte]
+  have hy : ∀ i ∈ t, y i = if h : i ∈ s then x i else y i := by
+    intro i hi
+    have h : i ∉ s := Disjoint.not_mem_of_mem_left (id (Disjoint.symm hst)) hi
+    simp only [hi, hst, dite_eq_ite, h, ↓reduceIte]
+  rw [Set.pi_congr rfl hx, Set.pi_congr rfl hy]
+  exact union_pi
```
Comment (Paul-Lez) [inline Mathlib/Data/Set/Prod.lean:748]:
```suggestion
lemma union_pi_ite_of_disjoint {s t : Set ι} {x y : (i : ι) → Set (α i)} (hst : Disjoint s t)
    [DecidablePred (· ∈ s)] :
    ((s ∪ t).pi fun i ↦ if i ∈ s then x i else y i) = (s.pi x) ∩ (t.pi y) := by
  rw [union_pi, Set.pi_congr rfl (fun i hi ↦ if_pos hi), Set.pi_congr rfl (fun i hi ↦
    if_neg <| hst.symm.not_mem_of_mem_left hi)]
```

File: Mathlib/Data/Set/Prod.lean [hunk 3]
```diff
@@ -890,6 +907,58 @@ theorem univ_pi_ite (s : Set ι) [DecidablePred (· ∈ s)] (t : ∀ i, Set (α
   refine forall_congr' fun i => ?_
   split_ifs with h <;> simp [h]
 
+section Setdiff
+
+/-- Write that set difference `(s ∪ t).pi x \ (s ∪ t).pi y` as a union. -/
+lemma pi_setdiff_eq_union (s t : Set ι) (x y : (i : ι) → Set (α i)) :
+  (s ∪ t).pi x \ (s ∪ t).pi y = (t.pi x \ t.pi y) ∩ (s.pi x ∩ s.pi y) ∪
+    t.pi x ∩ (s.pi x \ s.pi y) := by
```
Comment (EtienneC30) [inline Mathlib/Data/Set/Prod.lean:915]: I don't think we want this lemma, it seems way too specific. You should put the proof directly in the place where you use it, and you can do a much shorter proof using [Set.union_pi](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Prod.html#Set.union_pi) (I changed a bit the right-hand side to remove a few rewrites):
```lean
lemma pi_setdiff_eq_union (s t : Set ι) (x y : (i : ι) → Set (α i)) :
  (s ∪ t).pi x \ (s ∪ t).pi y = (s.pi y)ᶜ ∩ (s.pi x ∩ t.pi x) ∪ (t.pi y)ᶜ ∩ (s.pi x ∩ t.pi x) := by
  rw [diff_eq_compl_inter, union_pi, union_pi, compl_inter, union_inter_distrib_right]
```

**Comment by EtienneC30** [comment]
@Paul-Lez I am guessing you pushed on the wrong branch?

**Comment by Paul-Lez** [comment]
> @Paul-Lez I am guessing you pushed on the wrong branch?

Yes, my apologies for this! Hopefully this is now fixed!

**Comment by sgouezel** [comment]
There is a problem with the branch (it adds 1572 lines and removes 692, and touches 69 files, which is probably not what you wanted)

**Comment by pfaffelh** [comment]
> There is a problem with the branch (it adds 1572 lines and removes 692, and touches 69 files, which is probably not what you wanted)

Indeed, this was not what I intended, thanks for pointing this out. Now there are 5 files touched, which is what I intended.

File: Mathlib/Data/Set/Prod.lean [hunk 4]
```diff
@@ -893,6 +905,25 @@ theorem univ_pi_ite (s : Set ι) [DecidablePred (· ∈ s)] (t : ∀ i, Set (α
   refine forall_congr' fun i => ?_
   split_ifs with h <;> simp [h]
 
+section Setdiff
+
+/-- Write that set difference `(s ∪ t).pi x \ (s ∪ t).pi y` as a union. -/
+lemma pi_setdiff_eq_union (s t : Set ι) (x y : (i : ι) → Set (α i)) :
+  (s ∪ t).pi x \ (s ∪ t).pi y = t.pi x ∩ (s.pi x \ s.pi y) ∪ (t.pi x \ t.pi y) ∩ (s.pi x ∩ s.pi y)
+     := by
```
Comment (sgouezel) [inline Mathlib/Data/Set/Prod.lean:913]:
```suggestion
/-- Write the set difference `(s ∪ t).pi x \ (s ∪ t).pi y` as a union. -/
lemma pi_setdiff_eq_union (s t : Set ι) (x y : (i : ι) → Set (α i)) :
  (s ∪ t).pi x \ (s ∪ t).pi y = 
    t.pi x ∩ (s.pi x \ s.pi y) ∪ (t.pi x \ t.pi y) ∩ (s.pi x ∩ s.pi y) := by
```

File: Mathlib/Data/Set/Prod.lean [hunk 5]
```diff
@@ -893,6 +905,25 @@ theorem univ_pi_ite (s : Set ι) [DecidablePred (· ∈ s)] (t : ∀ i, Set (α
...
+  rw [union_pi, union_pi, diff_eq_compl_inter, compl_inter,  union_inter_distrib_right,
+    ← inter_assoc, ← diff_eq_compl_inter, ← inter_assoc, inter_comm, inter_assoc,
+    inter_comm (s.pi x ) (t.pi x), ← inter_assoc,  ← diff_eq_compl_inter, ← union_diff_self]
+  apply congrArg (Union.union (t.pi x ∩ (s.pi x \ s.pi y)))
+  aesop
+
+lemma pi_setdiff_union_disjoint (s t : Set ι) (x : (i : ι) → Set (α i)) (y : (i : ι) → Set (α i)) :
```
Comment (sgouezel) [inline Mathlib/Data/Set/Prod.lean:920]: the lemma name should start with `disjoint` as it's the first symbol in the statement. Also, your name uses `union`, but I don't see a union anywhere.

File: Mathlib/Data/Set/Prod.lean [hunk 6]
```diff
@@ -931,6 +962,21 @@ theorem sumPiEquivProdPi_symm_preimage_univ_pi (π : ι ⊕ ι' → Type*) (t :
 
 end Equiv
 
+section image
+
+open Set
+variable {ι ι' : Type*} {α : ι → Type*}
+
+lemma subset_pi_image_of_subset {s : Set ι} {B C : (i : ι) → Set (Set (α i))}
+    (hBC : ∀ i ∈ s, B i ⊆ C i) : s.pi  '' s.pi B ⊆ s.pi  '' s.pi C := by
```
Comment (sgouezel) [inline Mathlib/Data/Set/Prod.lean:971]:
```suggestion
    (hBC : ∀ i ∈ s, B i ⊆ C i) : s.pi '' s.pi B ⊆ s.pi '' s.pi C := by
```

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 7]
```diff
@@ -7,8 +7,9 @@ import Mathlib.Data.Nat.Lattice
 import Mathlib.Data.Set.Accumulate
 import Mathlib.Data.Set.Pairwise.Lattice
 import Mathlib.MeasureTheory.PiSystem
+import Mathlib.MeasureTheory.MeasurableSpace.Pi
 
-/-! # Semirings and rings of sets
+/-! # Semirings of sets
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/SetSemiring.lean:12]: Why this change and the changes below? This file also defines rings of sets, if I'm not mistaken.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by RemyDegenne** [comment]
Closing: replaced by #25902
